US07465731B2
A mixture of 5,6-dichloronicotinic acid (356 mg), iodoethane (318 mg) and potassium carbonate (308 mg) in N,N-dimethylformamide (3 mL) was heated at eighty degree for fourteen hours. The mixture was allowed to cool to ambient temperature and to this was added (3R)-1-(cyclohexylmethyl)-3-piperidinamine dihydrochloride (549 mg) and potassium carbonate (898 mg) and heated at eighty degree for thirtyeight hours. The mixture was allowed to cool to ambient temperature and was added water. The mixture was extracted with ethyl acetate (100 mL) and aqueous phase was separated. The organic layer was washed with brine and dried over anhydrous sodium sulfate. The solvent was filtered and evaporated in vacuo to give an amorphous solid. The crude solid was purified by a flash chromatography eluting with 3% methanol-chloroform (v/v) to give ethyl 5-chloro-6-{[(3R)-1-(cyclohexylmethyl)-3-piperidinyl]amino}nicotinate (154 mg) as a pale yellow amorphous solid.

reactant | 5,6-dichloronicotinic acid | 356 mg | ClC=1C(=NC=C(C(=O)O)C1)Cl | C6H3Cl2NO2
reactant | iodoethane | 318 mg | ICC | C2H5I
reactant | potassium carbonate | 308 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (3R)-1-(cyclohexylmethyl)-3-piperidinamine dihydrochloride | 549 mg | Cl.Cl.C1(CCCCC1)CN1C[C@@H](CCC1)N
reactant | potassium carbonate | 898 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 5-chloro-6-{[(3R)-1-(cyclohexylmethyl)-3-piperidinyl]amino}nicotinate | 154 mg | ClC=1C(=NC=C(C(=O)OCC)C1)N[C@H]1CN(CCC1)CC1CCCCC1 | C20H30ClN3O2
